datasets/10k__Tet_Int.csv
SMILES Labelled
"[O:10]([K])C([H])C([H])C(O)C([H])[C:20](OCC)=[O:21]>>[O-:21][C:20]1(OCC)C([H])C(O)C([H])C([H])[O+:10]1([K]) 10=20;20,21=21"
"[H][O:10]C(C9=CC=CC=C9)C([H])[NH][C:20]([NH]CC)=[NH+:21][H].[Cl-]>>[Cl-].[H][O+:10](C(C9=CC=CC=C9)C([H])[NH]1)[C:20]1([NH:21][H])[NH]CC 10=20;20,21=21"
"C[NH:10][H].C6=CC=CC=C6[NH+:21]=[C:20]([O][H])[O]CC.[Cl-]>>[Cl-].C[NH+:10]([H])[C:20]([NH:21]C6=CC=CC=C6)([O][H])[O]CC 10=20;20,21=21"
"[H][S:10]C(CC)C(C)C(C)[S][C:20]([S][H])=[O+:21][H].[Cl-]>>[Cl-].[H][S+:10](C(CC)C(C)C(C)[S]1)[C:20]1([O:21][H])[S][H] 10=20;20,21=21"
"[H][O+:10](C(C)C(CC)[O]1)[C:20]1([NH:21]C6=CC=CC=C6)[NH]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][O:10]C(C)C(CC)[O][C:20]([NH]C7=CC=CC=C7)=[NH+:21]C6=CC=CC=C6 21=20;20,10=10"
"CC[NH:10][H].C6=CC=CC=C6[NH+:21]=[C:20]([O][H])[O]CC.[Cl-]>>[Cl-].CC[NH+:10]([H])[C:20]([NH:21]C6=CC=CC=C6)([O][H])[O]CC 10=20;20,21=21"
"[H][NH+:21]=[C:20]2[O][CH](C7=CC=CC=C7)[CH]([H])C([H])[O]2.[H][O:10][H].[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]1([NH:21][H])[O][CH](C7=CC=CC=C7)C([H])[CH]([H])[O]1 10=20;20,21=21"
"[H][S+:10](C([H])C(C)C(C8=CC=CC=C8)[O]1)[C:20]1([O:21][H])[O]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][S:10]C([H])C(C)C(C8=CC=CC=C8)[O][C:20]([O]C7=CC=CC=C7)=[O+:21][H] 21=20;20,10=10"
"[H]C1C(C(O[C:20](N1C)([O-:10])[O:21]C)CC)CC>>[H]C1C(C(O[C:20](=[O:10])N1C)CC)CC.[O-:21]C 10=20;20,21=21"
"CC1C(C(O[C:20](N1[H])([O-:10])[O:21]CC)C1=CC=CC=C1)CC>>CC1C(C(O[C:20](=[O:10])N1[H])C1=CC=CC=C1)CC.[O-:21]CC 10=20;20,21=21"
"CCC1C(C(O[C:20](=[O:10])N1CC)CCCCCC)CCCCCC.[O-:21]C1=CC=CC=C1>>CCC1C(C(O[C:20](N1CC)([O-:10])[O:21]C1=CC=CC=C1)CCCCCC)CCCCCC 21=20;20,10=10"
"[O:20]=[C:21](OC1=CC=CC=C1)O[H].[H][O:10][Na]>>[H][O+:10]([Na])[C:21]([O-:20])(OC1=CC=CC=C1)O[H] 10=21;21,20=20"
"[H][NH:10]C(C)C([H])C([H])[NH][C:20]([NH][H])=[NH+:21][H].[Cl-]>>[Cl-].[H][NH+:10](C(C)C([H])C([H])[NH]1)[C:20]1([NH:21][H])[NH][H] 10=20;20,21=21"
"[O-:21][C:20]1([H])C([H])C(O)C(O)C(C)[NH+:10]1(C)>>[NH:10](C)C(C)C(O)C(O)C([H])[C:20]([H])=[O:21] 21=20;20,10=10"
"[O:10]([Na])C([H])C(C)/C(C)=C([H])\[C:20](OCC)=[O:21]>>[O-:21][C:20]1(OCC)C([H])=C(C)C(C)C([H])[O+:10]1([Na]) 10=20;20,21=21"
"[H][O:10]C(C)C(C8=CC=CC=C8)[NH][C:20]([O]C7=CC=CC=C7)=[NH+:21][H].[Cl-]>>[Cl-].[H][O+:10](C(C)C(C8=CC=CC=C8)[NH]1)[C:20]1([NH:21][H])[O]C7=CC=CC=C7 10=20;20,21=21"
"[H][O+:10](C(C)C(CC)[O]1)[C:20]1([NH:21][H])[O]CC.[Cl-]>>[Cl-].[H][O:10]C(C)C(CC)[O][C:20]([O]CC)=[NH+:21][H] 21=20;20,10=10"
"[H][NH+:10](C(C)C(C)C(CC)[O]1)[C:20]1([NH:21]CC)[NH]CC.[Cl-]>>[Cl-].[H][NH:10]C(C)C(C)C(CC)[O][C:20]([NH]CC)=[NH+:21]CC 21=20;20,10=10"
"C9=CC=CC=C9[O+:10]([H])[C:20]1([NH:21]CC)[NH]C(C7=CC=CC=C7)C(C)[NH]1.[Cl-]>>[Cl-].CC[NH+:21]=[C:20]2[NH]C(C7=CC=CC=C7)C(C)[NH]2.C9=CC=CC=C9[O:10][H] 21=20;20,10=10"
"[H][O+:10](C([H])C([H])C(C8=CC=CC=C8)[O]1)[C:20]1([O:21][H])[S]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][O:10]C([H])C([H])C(C8=CC=CC=C8)[O][C:20]([S]C7=CC=CC=C7)=[O+:21][H] 21=20;20,10=10"
"[H][NH+:10]([H])[C:20]([NH:21]C6=CC=CC=C6)([NH]C8=CC=CC=C8)[O]CC.[Cl-]>>[Cl-].[H][NH:10][H].C6=CC=CC=C6[NH+:21]=[C:20]([NH]C8=CC=CC=C8)[O]CC 21=20;20,10=10"
"C(C([O-:21])C1=CC=CC=C1)(C(O[C:20](=[O:10])OC1=CC=CC=C1)CCCCCC)C1=CC=CC=C1>>C1(C(O[C:20]([O-:10])([O:21]C1C1=CC=CC=C1)OC1=CC=CC=C1)CCCCCC)C1=CC=CC=C1 21=20;20,10=10"
"[H][NH+:21]=[C:20]2[NH]C(C)C(C)[O]2.C[O:10][H].[Cl-]>>[Cl-].C[O+:10]([H])[C:20]1([NH:21][H])[NH]C(C)C(C)[O]1 10=20;20,21=21"
"[H][NH:10][H].C[NH+:21]=[C:20]([O]C8=CC=CC=C8)[NH]C.[Cl-]>>[Cl-].[H][NH+:10]([H])[C:20]([NH:21]C)([O]C8=CC=CC=C8)[NH]C 10=20;20,21=21"
"C9=CC=CC=C9[S+:10]([H])[C:20]([O:21][H])([O]C8=CC=CC=C8)[O]C7=CC=CC=C7.[Cl-]>>[Cl-].C9=CC=CC=C9[S:10][H].[H][O+:21]=[C:20]([O]C8=CC=CC=C8)[O]C7=CC=CC=C7 21=20;20,10=10"
"[H][O+:10](C([H])C(CC)[NH]1)[C:20]1([NH:21][H])[NH]C.[Cl-]>>[Cl-].[H][O:10]C([H])C(CC)[NH][C:20]([NH]C)=[NH+:21][H] 21=20;20,10=10"
"[H][O:10]C(CC)C([H])[S][C:20]([S][H])=[O+:21][Si](C)(C)(C).[Cl-]>>[Cl-].[H][O+:10](C(CC)C([H])[S]1)[C:20]1([O:21][Si](C)(C)(C))[S][H] 10=20;20,21=21"
"[H][O:10]C(C9=CC=CC=C9)C(C)[O][C:20]([S]C)=[O+:21][Si](C)(C)(C).[Cl-]>>[Cl-].[H][O+:10](C(C9=CC=CC=C9)C(C)[O]1)[C:20]1([O:21][Si](C)(C)(C))[S]C 10=20;20,21=21"
"[H][O+:10](C(C9=CC=CC=C9)C(C8=CC=CC=C8)[NH]1)[C:20]1([NH:21][H])[NH]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][O:10]C(C9=CC=CC=C9)C(C8=CC=CC=C8)[NH][C:20]([NH]C7=CC=CC=C7)=[NH+:21][H] 21=20;20,10=10"
"[H][O+:10](C(C9=CC=CC=C9)C(C)C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21]C)[NH]C.[Cl-]>>[Cl-].[H][O:10]C(C9=CC=CC=C9)C(C)C(C8=CC=CC=C8)[O][C:20]([NH]C)=[NH+:21]C 21=20;20,10=10"
"[H][NH+:21]=[C:20]2[NH]C(CC)C(C)[NH]2.C9=CC=CC=C9[NH:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[NH+:10]([H])[C:20]1([NH:21][H])[NH]C(CC)C(C)[NH]1 10=20;20,21=21"
"CC[S+:10]([H])[C:20]1([O:21]C)[S]C([H])C([H])[O]1.[Cl-]>>[Cl-].C[O+:21]=[C:20]2[S]C([H])C([H])[O]2.CC[S:10][H] 21=20;20,10=10"
"[H][O:10]C(CC)C(C)C([H])[NH][C:20]([O]C)=[NH+:21][H].[Cl-]>>[Cl-].[H][O+:10](C(CC)C(C)C([H])[NH]1)[C:20]1([NH:21][H])[O]C 10=20;20,21=21"
"C[O+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[NH]C([H])C([H])[NH]1.[Cl-]>>[Cl-].C6=CC=CC=C6[NH+:21]=[C:20]2[NH]C([H])C([H])[NH]2.C[O:10][H] 21=20;20,10=10"
